.title kicad schematic

* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
v3 s1 gnd pulse(0 5 0 10n 10n 2m 4m)
v4 s0 gnd pulse(0 5 0 10n 10n 1m 2m)
* u14 net-_u10-pad2_ net-_u14-pad2_ d_inverter
* u3 s1 plot_v1
* u4 s0 plot_v1
* u9 s1 net-_u13-pad1_ adc_bridge_1
* u10 s0 net-_u10-pad2_ adc_bridge_1
v2 a2 gnd pulse(0 0 0 10n 10n 2m 4m)
v1 a3 gnd pulse(5 5 0 10n 10n 2m 4m)
* u8 a2 net-_u25-pad2_ adc_bridge_1
* u2 a2 plot_v1
* u7 a3 net-_u15-pad2_ adc_bridge_1
* u1 a3 plot_v1
* u11 a1 net-_u11-pad2_ adc_bridge_1
* u5 a1 plot_v1
* u12 a0 net-_u12-pad2_ adc_bridge_1
* u6 a0 plot_v1
v5 a1 gnd pulse(0 0 0 10n 10n 2m 4m)
v6 a0 gnd pulse(5 5 0 10n 10n 2m 4m)
* u15 net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_and
* u28 net-_u28-pad1_ net-_u25-pad2_ net-_u28-pad3_ d_and
* u32 net-_u13-pad2_ net-_u10-pad2_ net-_u31-pad1_ d_and
* u29 net-_u14-pad2_ net-_u13-pad2_ net-_u28-pad1_ d_and
* u41 net-_u41-pad1_ net-_u11-pad2_ net-_u41-pad3_ d_and
* u39 net-_u13-pad1_ net-_u10-pad2_ net-_u38-pad1_ d_and
* u34 net-_u14-pad2_ net-_u13-pad1_ net-_u33-pad1_ d_and
* u37 net-_u37-pad1_ net-_u33-pad3_ net-_u35-pad1_ d_or
* u38 net-_u38-pad1_ net-_u11-pad2_ net-_u37-pad1_ d_and
* u17 net-_u17-pad1_ net-_u15-pad3_ net-_u17-pad3_ d_or
* u20 net-_u20-pad1_ net-_u11-pad2_ net-_u20-pad3_ d_and
* u18 net-_u18-pad1_ net-_u12-pad2_ net-_u17-pad1_ d_and
* u33 net-_u33-pad1_ net-_u12-pad2_ net-_u33-pad3_ d_and
* u30 net-_u30-pad1_ net-_u28-pad3_ net-_u30-pad3_ d_or
* u31 net-_u31-pad1_ net-_u15-pad2_ net-_u30-pad1_ d_and
* u25 net-_u25-pad1_ net-_u25-pad2_ net-_u24-pad1_ d_and
* u24 net-_u24-pad1_ net-_u20-pad3_ net-_u22-pad1_ d_or
* u35 net-_u35-pad1_ net-_u30-pad3_ net-_u35-pad3_ d_or
* u36 net-_u35-pad3_ y2 dac_bridge_1
* u40 y2 plot_v1
* u23 net-_u22-pad3_ y3 dac_bridge_1
* u22 net-_u22-pad1_ net-_u17-pad3_ net-_u22-pad3_ d_or
* u27 y3 plot_v1
* u42 net-_u14-pad2_ net-_u13-pad2_ net-_u41-pad1_ d_and
* u47 net-_u14-pad2_ net-_u13-pad1_ net-_u46-pad1_ d_and
* u45 net-_u13-pad2_ net-_u10-pad2_ net-_u44-pad1_ d_and
* u52 net-_u13-pad1_ net-_u10-pad2_ net-_u51-pad1_ d_and
* u55 net-_u14-pad2_ net-_u13-pad2_ net-_u54-pad1_ d_and
* u65 net-_u13-pad1_ net-_u10-pad2_ net-_u64-pad1_ d_and
* u60 net-_u14-pad2_ net-_u13-pad1_ net-_u59-pad1_ d_and
* u58 net-_u13-pad2_ net-_u10-pad2_ net-_u57-pad1_ d_and
* u46 net-_u46-pad1_ net-_u15-pad2_ net-_u46-pad3_ d_and
* u44 net-_u44-pad1_ net-_u25-pad2_ net-_u43-pad1_ d_and
* u43 net-_u43-pad1_ net-_u41-pad3_ net-_u43-pad3_ d_or
* u63 net-_u63-pad1_ net-_u59-pad3_ net-_u61-pad1_ d_or
* u64 net-_u64-pad1_ net-_u15-pad2_ net-_u63-pad1_ d_and
* u51 net-_u51-pad1_ net-_u12-pad2_ net-_u50-pad1_ d_and
* u50 net-_u50-pad1_ net-_u46-pad3_ net-_u48-pad1_ d_or
* u48 net-_u48-pad1_ net-_u43-pad3_ net-_u48-pad3_ d_or
* u49 net-_u48-pad3_ y1 dac_bridge_1
* u53 y1 plot_v1
* u61 net-_u61-pad1_ net-_u56-pad3_ net-_u61-pad3_ d_or
* u62 net-_u61-pad3_ y0 dac_bridge_1
* u66 y0 plot_v1
* u54 net-_u54-pad1_ net-_u12-pad2_ net-_u54-pad3_ d_and
* u57 net-_u57-pad1_ net-_u11-pad2_ net-_u56-pad1_ d_and
* u59 net-_u59-pad1_ net-_u25-pad2_ net-_u59-pad3_ d_and
* u56 net-_u56-pad1_ net-_u54-pad3_ net-_u56-pad3_ d_or
* u26 net-_u13-pad1_ net-_u10-pad2_ net-_u25-pad1_ d_and
* u16 net-_u14-pad2_ net-_u13-pad2_ net-_u15-pad1_ d_and
* u19 net-_u13-pad2_ net-_u10-pad2_ net-_u18-pad1_ d_and
* u21 net-_u14-pad2_ net-_u13-pad1_ net-_u20-pad1_ d_and
a1 net-_u13-pad1_ net-_u13-pad2_ u13
a2 net-_u10-pad2_ net-_u14-pad2_ u14
a3 [s1 ] [net-_u13-pad1_ ] u9
a4 [s0 ] [net-_u10-pad2_ ] u10
a5 [a2 ] [net-_u25-pad2_ ] u8
a6 [a3 ] [net-_u15-pad2_ ] u7
a7 [a1 ] [net-_u11-pad2_ ] u11
a8 [a0 ] [net-_u12-pad2_ ] u12
a9 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a10 [net-_u28-pad1_ net-_u25-pad2_ ] net-_u28-pad3_ u28
a11 [net-_u13-pad2_ net-_u10-pad2_ ] net-_u31-pad1_ u32
a12 [net-_u14-pad2_ net-_u13-pad2_ ] net-_u28-pad1_ u29
a13 [net-_u41-pad1_ net-_u11-pad2_ ] net-_u41-pad3_ u41
a14 [net-_u13-pad1_ net-_u10-pad2_ ] net-_u38-pad1_ u39
a15 [net-_u14-pad2_ net-_u13-pad1_ ] net-_u33-pad1_ u34
a16 [net-_u37-pad1_ net-_u33-pad3_ ] net-_u35-pad1_ u37
a17 [net-_u38-pad1_ net-_u11-pad2_ ] net-_u37-pad1_ u38
a18 [net-_u17-pad1_ net-_u15-pad3_ ] net-_u17-pad3_ u17
a19 [net-_u20-pad1_ net-_u11-pad2_ ] net-_u20-pad3_ u20
a20 [net-_u18-pad1_ net-_u12-pad2_ ] net-_u17-pad1_ u18
a21 [net-_u33-pad1_ net-_u12-pad2_ ] net-_u33-pad3_ u33
a22 [net-_u30-pad1_ net-_u28-pad3_ ] net-_u30-pad3_ u30
a23 [net-_u31-pad1_ net-_u15-pad2_ ] net-_u30-pad1_ u31
a24 [net-_u25-pad1_ net-_u25-pad2_ ] net-_u24-pad1_ u25
a25 [net-_u24-pad1_ net-_u20-pad3_ ] net-_u22-pad1_ u24
a26 [net-_u35-pad1_ net-_u30-pad3_ ] net-_u35-pad3_ u35
a27 [net-_u35-pad3_ ] [y2 ] u36
a28 [net-_u22-pad3_ ] [y3 ] u23
a29 [net-_u22-pad1_ net-_u17-pad3_ ] net-_u22-pad3_ u22
a30 [net-_u14-pad2_ net-_u13-pad2_ ] net-_u41-pad1_ u42
a31 [net-_u14-pad2_ net-_u13-pad1_ ] net-_u46-pad1_ u47
a32 [net-_u13-pad2_ net-_u10-pad2_ ] net-_u44-pad1_ u45
a33 [net-_u13-pad1_ net-_u10-pad2_ ] net-_u51-pad1_ u52
a34 [net-_u14-pad2_ net-_u13-pad2_ ] net-_u54-pad1_ u55
a35 [net-_u13-pad1_ net-_u10-pad2_ ] net-_u64-pad1_ u65
a36 [net-_u14-pad2_ net-_u13-pad1_ ] net-_u59-pad1_ u60
a37 [net-_u13-pad2_ net-_u10-pad2_ ] net-_u57-pad1_ u58
a38 [net-_u46-pad1_ net-_u15-pad2_ ] net-_u46-pad3_ u46
a39 [net-_u44-pad1_ net-_u25-pad2_ ] net-_u43-pad1_ u44
a40 [net-_u43-pad1_ net-_u41-pad3_ ] net-_u43-pad3_ u43
a41 [net-_u63-pad1_ net-_u59-pad3_ ] net-_u61-pad1_ u63
a42 [net-_u64-pad1_ net-_u15-pad2_ ] net-_u63-pad1_ u64
a43 [net-_u51-pad1_ net-_u12-pad2_ ] net-_u50-pad1_ u51
a44 [net-_u50-pad1_ net-_u46-pad3_ ] net-_u48-pad1_ u50
a45 [net-_u48-pad1_ net-_u43-pad3_ ] net-_u48-pad3_ u48
a46 [net-_u48-pad3_ ] [y1 ] u49
a47 [net-_u61-pad1_ net-_u56-pad3_ ] net-_u61-pad3_ u61
a48 [net-_u61-pad3_ ] [y0 ] u62
a49 [net-_u54-pad1_ net-_u12-pad2_ ] net-_u54-pad3_ u54
a50 [net-_u57-pad1_ net-_u11-pad2_ ] net-_u56-pad1_ u57
a51 [net-_u59-pad1_ net-_u25-pad2_ ] net-_u59-pad3_ u59
a52 [net-_u56-pad1_ net-_u54-pad3_ ] net-_u56-pad3_ u56
a53 [net-_u13-pad1_ net-_u10-pad2_ ] net-_u25-pad1_ u26
a54 [net-_u14-pad2_ net-_u13-pad2_ ] net-_u15-pad1_ u16
a55 [net-_u13-pad2_ net-_u10-pad2_ ] net-_u18-pad1_ u19
a56 [net-_u14-pad2_ net-_u13-pad1_ ] net-_u20-pad1_ u21
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u9 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u15 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u37 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u30 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u24 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u35 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u36 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u23 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u22 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u47 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u52 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u55 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u65 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u60 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u58 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u43 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u63 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u64 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u51 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u50 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u48 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u49 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u61 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u62 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u54 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u57 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u59 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u56 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u16 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 1e-03 4e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(s1)
plot v(s0)
plot v(a2)
plot v(a3)
plot v(a1)
plot v(a0)
plot v(y2)
plot v(y3)
plot v(y1)
plot v(y0)
.endc
.end
