.title kicad schematic

.include full_adder.sub
* u5 cin plot_v1
* u14 cin net-_u14-pad2_ adc_bridge_1
v5 cin gnd pulse(0 5 0 10n 10n 0.5m 1m)
v10 net-_u19-pad1_ gnd pulse(0 0 0 10n 10n 4m 8m)
* u19 net-_u19-pad1_ net-_u19-pad2_ adc_bridge_1
* u4 a0 plot_v1
* u24 net-_u24-pad1_ s2 dac_bridge_1
* u25 s2 plot_v1
* u27 s3 plot_v1
* u26 net-_u26-pad1_ s3 dac_bridge_1
* u23 s1 plot_v1
* u21 s0 plot_v1
* u22 net-_u22-pad1_ s1 dac_bridge_1
x2 net-_x1-pad4_ net-_u19-pad2_ net-_u19-pad2_ net-_u20-pad1_ net-_x2-pad5_ full_adder
* u20 net-_u20-pad1_ s0 dac_bridge_1
x8 net-_u28-pad2_ net-_u19-pad2_ net-_x6-pad5_ net-_u26-pad1_ unconnected-_x8-pad5_ full_adder
* u32 net-_u31-pad3_ cout dac_bridge_1
* u31 net-_u30-pad3_ net-_u31-pad2_ net-_u31-pad3_ d_or
* u33 cout plot_v1
* u28 net-_u28-pad1_ net-_u28-pad2_ net-_u28-pad3_ d_and
* u30 net-_u28-pad3_ net-_u29-pad3_ net-_u30-pad3_ d_or
* u29 net-_u29-pad1_ net-_u28-pad2_ net-_u29-pad3_ d_and
* u6 b3 plot_v1
* u15 b3 net-_u15-pad2_ adc_bridge_1
* u16 b2 net-_u16-pad2_ adc_bridge_1
v8 b1 gnd pulse(0 5 0 10n 10n 1m 2m)
v9 b0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
v7 b2 gnd pulse(0 5 0 10n 10n 2m 4m)
* u9 b0 plot_v1
* u7 b2 plot_v1
* u8 b1 plot_v1
* u18 b0 net-_u18-pad2_ adc_bridge_1
* u17 b1 net-_u17-pad2_ adc_bridge_1
v6 b3 gnd pulse(0 5 0 10n 10n 4m 8m)
x6 net-_u29-pad1_ net-_u31-pad3_ net-_x4-pad5_ net-_u24-pad1_ net-_x6-pad5_ full_adder
x4 net-_u28-pad1_ net-_u31-pad3_ net-_x2-pad5_ net-_u22-pad1_ net-_x4-pad5_ full_adder
x5 net-_u16-pad2_ net-_u11-pad2_ net-_x3-pad5_ net-_u29-pad1_ net-_x5-pad5_ full_adder
x7 net-_u15-pad2_ net-_u10-pad2_ net-_x5-pad5_ net-_u28-pad2_ net-_u31-pad2_ full_adder
x3 net-_u17-pad2_ net-_u12-pad2_ net-_x1-pad5_ net-_u28-pad1_ net-_x3-pad5_ full_adder
x1 net-_u18-pad2_ net-_u13-pad2_ net-_u14-pad2_ net-_x1-pad4_ net-_x1-pad5_ full_adder
* u10 a3 net-_u10-pad2_ adc_bridge_1
* u1 a3 plot_v1
* u11 a2 net-_u11-pad2_ adc_bridge_1
* u12 a1 net-_u12-pad2_ adc_bridge_1
* u2 a2 plot_v1
* u13 a0 net-_u13-pad2_ adc_bridge_1
* u3 a1 plot_v1
v2 a2 gnd pulse(0 5 0 10n 10n 2m 4m)
v1 a3 gnd pulse(0 5 0 10n 10n 4m 8m)
v3 a1 gnd pulse(0 5 0 10n 10n 1m 2m)
v4 a0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
a1 [cin ] [net-_u14-pad2_ ] u14
a2 [net-_u19-pad1_ ] [net-_u19-pad2_ ] u19
a3 [net-_u24-pad1_ ] [s2 ] u24
a4 [net-_u26-pad1_ ] [s3 ] u26
a5 [net-_u22-pad1_ ] [s1 ] u22
a6 [net-_u20-pad1_ ] [s0 ] u20
a7 [net-_u31-pad3_ ] [cout ] u32
a8 [net-_u30-pad3_ net-_u31-pad2_ ] net-_u31-pad3_ u31
a9 [net-_u28-pad1_ net-_u28-pad2_ ] net-_u28-pad3_ u28
a10 [net-_u28-pad3_ net-_u29-pad3_ ] net-_u30-pad3_ u30
a11 [net-_u29-pad1_ net-_u28-pad2_ ] net-_u29-pad3_ u29
a12 [b3 ] [net-_u15-pad2_ ] u15
a13 [b2 ] [net-_u16-pad2_ ] u16
a14 [b0 ] [net-_u18-pad2_ ] u18
a15 [b1 ] [net-_u17-pad2_ ] u17
a16 [a3 ] [net-_u10-pad2_ ] u10
a17 [a2 ] [net-_u11-pad2_ ] u11
a18 [a1 ] [net-_u12-pad2_ ] u12
a19 [a0 ] [net-_u13-pad2_ ] u13
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u19 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u24 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u26 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u22 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u20 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u32 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u31 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u30 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u16 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u18 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u17 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u10 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u12 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 8e-03 3e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(cin)
plot v(a0)
plot v(s2)
plot v(s3)
plot v(s1)
plot v(s0)
plot v(cout)
plot v(b3)
plot v(b0)
plot v(b2)
plot v(b1)
plot v(a3)
plot v(a2)
plot v(a1)
.endc
.end
